US08895547B2
Biphenyl-4-yl-methanesulfonic acid sodium salt
A mixture of 28.69 g of 4-bromomethylbiphenyl and 29.27 g of sodium sulfite in 200 ml of a mixture of water and methanol (1:1) was stirred at 60° C. for 12 hours. After cooling to room temperature, the solvent was removed under reduced pressure and the aqueous residue was extracted twice with 100 ml of ethyl acetate. The aqueous phase was concentrated by rotary evaporation and the solid residue was stirred with 200 ml of isopropanol for 1 hour. After filtration to remove the solid constituents, the filtrate was concentrated by rotary evaporation. This gave the product (15.80 g) with a molecular weight of 270.3 g/mol (C13H11O3S.Na).

reactant | 4-bromomethylbiphenyl | 28.69 g | BrCC1=CC=C(C=C1)C1=CC=CC=C1 | C13H11Br
reactant | sodium sulfite | 29.27 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | Biphenyl-4-yl-methanesulfonic acid sodium salt | 15.80 g | [Na+].C1(=CC=C(C=C1)CS(=O)(=O)[O-])C1=CC=CC=C1 | InChI=1S/C13H12O3S.Na/c14-17(15,16)10-11-6-8-13(9-7-11)12-4-2-1-3-5-12;/h1-9H,10H2,(H,14,15,16);/q;+1/p-1
